US05342546
To a mixture of 104 g of phosphorus tribromide and 5 drops of a 48% aqueous solution of hydrogen bromide, 138 g of trans-4-pentylcyclohexanol were added dropwise under stirring while the temperature was controlled below 10° C. After the completion of the dropwise addition, the reaction mixture was reacted for one hour at the same temperature and then at room temperature for additional 1 hour. After the completion of the reaction, the reaction mixture was added with 200 ml of water, followed by extraction with diethyl ether. After the extract was washed with saturated NaCl, anhydrous sodium sulfate was added to dry the extract. The resultant mixture was filtered and the solvent was distilled off from the filtrate under reduced pressure, whereby trans-4-pentylcyclohexyl bromide was obtained.

reactant | phosphorus tribromide | 104 g | P(Br)(Br)Br | Br3P
reactant | hydrogen bromide | Br | BrH
reactant | trans-4-pentylcyclohexanol | 138 g | C(CCCC)[C@@H]1CC[C@H](CC1)O | C11H22O
solvent | water | 200 ml | O | H2O
product | trans-4-pentylcyclohexyl bromide | C(CCCC)[C@@H]1CC[C@H](CC1)Br | C11H21Br
